US06995263B2
g] {6-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid
To a solution of {6-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester (20 mg, 0.04 4 μmol) in THF/methanol 2/1 (3 ml) was added a 1 N aqueous LiOH solution (1 ml). The reaction mixture was stirred for 14 h at ambient temperature, neutralized with 1 N aqueous HCl solution under ice cooling and concentrated under reduced pressure. The residue was dissolved in 1 N HCl/ice water 1/1 and ethyl acetate, the layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with ice water/brine 1/1, dried over sodium sulfate and the solvent was evaporated in vacuo to give the title compound (18 mg, 0.04 μmol, quant.) as white solid.

reactant | {6-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | 4 μmol, 20 mg | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C28H27F3N2O3
reactant | LiOH | 1 N, 1 ml | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF methanol | 3 ml | C1CCOC1.CO
product | {6-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid | 0.04 μmol, 18 mg | CC1=NC(=CC=C1COC1=CC=C2C=CN(C2=C1)CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C24H19F3N2O3
